US06228870B1
To a solution of 2-[1-(3-tert-butoxycarbonylamino-propyl)piperidin-4-yl] benzonitrile (0.73 g, 2.1 mmol) in ethyl acetate (100 ml), cooled to 0° C. was added hydrogen chloride gas, bubbled vigorously for 5 minutes. The reaction mixture was stirred for 10 minutes at 0° C., purged with argon and concentrated. Flushing with ethyl acetate×2 and concentration gave 2-[1-(3-aminopropyl)-piperidin-4-yl]benzonitrile hydrochloride.

reactant | 2-[1-(3-tert-butoxycarbonylamino-propyl)piperidin-4-yl] benzonitrile | 2.1 mmol, 0.73 g | C(C)(C)(C)OC(=O)NCCCN1CCC(CC1)C1=C(C#N)C=CC=C1 | C20H29N3O2
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-[1-(3-aminopropyl)-piperidin-4-yl]benzonitrile hydrochloride | Cl.NCCCN1CCC(CC1)C1=C(C#N)C=CC=C1 | InChI=1S/C15H21N3.ClH/c16-8-3-9-18-10-6-13(7-11-18)15-5-2-1-4-14(15)12-17;/h1-2,4-5,13H,3,6-11,16H2;1H
